US07666888B2
5-(4-Methylphenyl)-4-(pyrrolidin-1-ylcarbonyl)isoxazole
The title compound was prepared from 5-(4-methylphenyl)isoxazole-4-carboxylic acid (10.2 mg, 0.050 mmol) and pyrrolidine (4.3 mg, 0.060 mmol) as described in synthetic method A and thereafter purified by preparative HPLC method A to give a solid (7.1 mg). MS (pos) m/z 257.2 (M+H).

reactant | 5-(4-methylphenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 10.2 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)O | C11H9NO3
reactant | pyrrolidine | 0.060 mmol, 4.3 mg | N1CCCC1 | C4H9N
product | 5-(4-Methylphenyl)-4-(pyrrolidin-1-ylcarbonyl)isoxazole | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)N1CCCC1 | C15H16N2O2
